* source MOTOR SIMULATION
R_R1         N00875 N00945  1 TC=0,0 
C_C1         N00835 N00517  100n  TC=0,0 
V_V1         N11879 0 12
V_V2         N00517 N00835 12
R_R2         N18376 N00945  1 TC=0,0 
R_R3         N00835 N00945  10k TC=0,0 
R_R4         N010491 N00945  2.2 TC=0,0 
R_R5         N011891 N00945  2.2 TC=0,0 
R_R6         N012471 N00945  2.2 TC=0,0 
V_V3         N01635 0 12
C_C2         0 N01635  10u  TC=0,0 
C_C3         0 N01635  220n  TC=0,0 
C_C4         0 N01635  10u  TC=0,0 
R_R7         N18434 N02504  1 TC=0,0 
R_R8         N02425 N02504  1 TC=0,0 
R_R10         0 N02504  10k TC=0,0 
R_R9         N02472 N02504  2.2 TC=0,0 
R_R12         N026591 N02504  2.2 TC=0,0 
R_R11         N026431 N02504  2.2 TC=0,0 
V_V4         N02924 0 5
C_C5         0 N02924  1u  TC=0,0 
C_C6         0 N02924  0.1u  TC=0,0 
V_V6         N04965 0  
+PULSE 0 3.3 0 100n 100n 14.8u 30u
V_V7         N01478 0 48
R_R13         N11879 N11958  2.2 TC=0,0 
C_C7         N00835 N00517  1u  TC=0,0 
X_D1         N11958 N00517 BYV28-200 
R_R14         N03004 0  100K TC=0,0 
X_D2         N18376 N00875 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.5 VJ_SPEC=0.9 IF_SPEC=5
X_D3         N18434 N02425 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.5 VJ_SPEC=0.9 IF_SPEC=5
C_C8         0 N01478  1u  TC=0,0 
C_C9         0 N01478  33u  TC=0,0 
V_V8         N71839 0  
+PULSE 0 3.3 15u 100n 100n 14.8u 30u
C_C10         N00835 N010491  18n  TC=0,0 
C_C11         0 N02472  18n  TC=0,0 
D_D4         N00835 N00875 BZV85C3V6/PLP 
D_D5         0 N02425 BZV85C3V6/PLP 
R_R15         N00835 N576190  80 TC=0,0 
C_C12         N576190 N01478  30n  TC=0,0 
C_C13         N581420 N01478  30n  TC=0,0 
R_R16         N00835 N581420  80 TC=0,0 
C_C14         N582460 N01478  30n  TC=0,0 
R_R17         N00835 N582460  80 TC=0,0 
C_C15         N583170 N00835  30n  TC=0,0 
R_R18         0 N583170  80 TC=0,0 
R_R19         0 N58758  80 TC=0,0 
C_C16         N58758 N00835  30n  TC=0,0 
C_C17         N58581 N00835  30n  TC=0,0 
R_R20         0 N58581  80 TC=0,0 
C_C18         N00835 N01478  1n  TC=0,0 
C_C19         N00835 N01478  1n  TC=0,0 
C_C20         N00835 N01478  1n  TC=0,0 
C_C21         0 N00835  1n  TC=0,0 
C_C22         0 N00835  1n  TC=0,0 
C_C23         0 N00835  1n  TC=0,0 
X_M1         N00835 N026591 0 power_nmos_p PARAMS: BVDSS=150 IDSS=1u VGS_TH=2.8
+  RDSON=0.005 GFS=44 CISS=5805p COSS=536p CRSS=16p RG=2.2 VSD=1 QG=70n V_QG=10
+  TRR=108n
X_M2         N00835 N026431 0 power_nmos_p PARAMS: BVDSS=150 IDSS=1u VGS_TH=2.8
+  RDSON=0.005 GFS=44 CISS=5805p COSS=536p CRSS=16p RG=2.2 VSD=1 QG=70n V_QG=10
+  TRR=108n
X_M3         N00835 N02472 0 power_nmos_p PARAMS: BVDSS=150 IDSS=1u VGS_TH=2.8
+  RDSON=0.005 GFS=44 CISS=5805p COSS=536p CRSS=16p RG=2.2 VSD=1 QG=70n V_QG=10
+  TRR=108n
X_M4         N01478 N010491 N00835 power_nmos_p PARAMS: BVDSS=150 IDSS=1u
+  VGS_TH=2.8 RDSON=0.005 GFS=44 CISS=5805p COSS=536p CRSS=16p RG=2.2 VSD=1
+  QG=70n V_QG=10 TRR=108n
X_M5         N01478 N011891 N00835 power_nmos_p PARAMS: BVDSS=150 IDSS=1u
+  VGS_TH=2.8 RDSON=0.005 GFS=44 CISS=5805p COSS=536p CRSS=16p RG=2.2 VSD=1
+  QG=70n V_QG=10 TRR=108n
X_M6         N01478 N012471 N00835 power_nmos_p PARAMS: BVDSS=150 IDSS=1u
+  VGS_TH=2.8 RDSON=0.005 GFS=44 CISS=5805p COSS=536p CRSS=16p RG=2.2 VSD=1
+  QG=70n V_QG=10 TRR=108n
V_V29         N409986 0  
+PULSE 0 3.3 0 100n 100n 36u 108u
V_V31         N533018 0  
+PULSE 0 3.3 72u 100n 100n 36u 108u
V_V32         N437401 0  
+PULSE 0 3.3 18u 100n 100n 36u 108u
V_V33         N409336 0  
+PULSE 0 3.3 72u 100n 100n 36u 108u
X_M120         N440417 N4406531 N440199 power_nmos_p PARAMS: BVDSS=100
+  IDSS=0.1u VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9
+  VSD=1 QG=156n V_QG=10 TRR=86n
V_V58         N441069 0 12
R_R140         N4400730 N440137  2.2 TC=0,0 
R_R152         N4413551 N441153  2.2 TC=0,0 
V_V57         N440417 0 48
R_R151         N441433 N441153  2.2 TC=0,0 
R_R142         N440637 N440473  2.2 TC=0,0 
R_R144         N440701 N440473  2.2 TC=0,0 
R_R153         0 N441153  10k TC=0,0 
R_R143         N440459 N440473  2 TC=0,0 
X_M121         N440199 N441423 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
R_R146         N440199 N440473  10k TC=0,0 
R_R147         N441091 0  10K TC=0,0 
R_R141         N440467 N440473  2 TC=0,0 
X_M122         N440199 N441433 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
V_V56         N440503 0 5
X_D31         N667952 N441143 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.9 VJ_SPEC=1 IF_SPEC=5
X_M118         N440417 N440637 N440199 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
V_V55         N440143 N440199 12
R_R145         N4406531 N440473  2.2 TC=0,0 
X_M119         N440417 N440701 N440199 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
R_R149         N441143 N441153  2 TC=0,0 
X_M123         N440199 N4413551 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
V_V54         N4400730 0 12
X_D30         N440467 N440459 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.9 VJ_SPEC=1 IF_SPEC=5
R_R150         N441423 N441153  2.2 TC=0,0 
R_R148         N667952 N441153  2 TC=0,0 
C_C222         N440199 N440143  4.7u  TC=0,0 
C_C224         0 N440503  1u  TC=0,0 
C_C225         0 N440503  100n  TC=0,0 
C_C221         N440199 N440143  100n  TC=0,0 
C_C226         N441091 0  100n  TC=0,0 
C_C228         0 N441069  220n  TC=0,0 
C_C227         0 N441069  10u  TC=0,0 
X_M128         N531974 N532272 N410807 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
X_D37         N666291 N532788 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.9 VJ_SPEC=1 IF_SPEC=5
R_R165         N5321981 N532066  2.2 TC=0,0 
C_C238         0 N532710  10u  TC=0,0 
V_V63         N532710 0 12
C_C237         0 N532710  220n  TC=0,0 
C_C232         N410807 N531694  4.7u  TC=0,0 
X_D35         N532060 N532052 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.9 VJ_SPEC=1 IF_SPEC=5
X_M131         N410807 N533096 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
R_R173         N5330021 N532804  2.2 TC=0,0 
R_R175         0 N532804  10k TC=0,0 
R_R170         N532788 N532804  2 TC=0,0 
C_C231         N410807 N531694  100n  TC=0,0 
C_C235         0 N532006  100n  TC=0,0 
X_M129         N531974 N5321981 N410807 power_nmos_p PARAMS: BVDSS=100
+  IDSS=0.1u VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9
+  VSD=1 QG=156n V_QG=10 TRR=86n
R_R167         N410807 N532066  10k TC=0,0 
V_V61         N532006 0 5
R_R161         N532060 N532066  2 TC=0,0 
V_V59         N5316240 0 12
R_R169         N666291 N532804  2 TC=0,0 
R_R172         N533106 N532804  2.2 TC=0,0 
R_R162         N532052 N532066  2 TC=0,0 
C_C234         0 N532006  1u  TC=0,0 
R_R160         N5316240 N531688  2.2 TC=0,0 
R_R168         N532780 0  10K TC=0,0 
R_R163         N532254 N532066  2.2 TC=0,0 
X_M132         N410807 N533106 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
V_V62         N531974 0 48
X_M127         N531974 N532254 N410807 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
R_R171         N533096 N532804  2.2 TC=0,0 
C_C236         N532780 0  100n  TC=0,0 
X_M133         N410807 N5330021 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
R_R164         N532272 N532066  2.2 TC=0,0 
V_V60         N531694 N410807 12
R_R180         N536113 N535907  2.2 TC=0,0 
R_R191         0 N536645  10k TC=0,0 
R_R188         N536947 N536645  2.2 TC=0,0 
X_M137         N495050 N5360391 N516763 power_nmos_p PARAMS: BVDSS=100
+  IDSS=0.1u VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9
+  VSD=1 QG=156n V_QG=10 TRR=86n
R_R177         N535901 N535907  2 TC=0,0 
C_C247         0 N536551  10u  TC=0,0 
R_R187         N536937 N536645  2.2 TC=0,0 
R_R184         N536621 0  10K TC=0,0 
V_V67         N495050 0 48
X_M141         N516763 N5368431 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
C_C240         N516763 N535535  100n  TC=0,0 
R_R185         N536637 N536645  2 TC=0,0 
R_R189         N5368431 N536645  2.2 TC=0,0 
V_V64         N5354650 0 12
R_R186         N536629 N536645  2 TC=0,0 
C_C244         0 N535847  100n  TC=0,0 
V_V68         N536551 0 12
X_M136         N495050 N536113 N516763 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
V_V65         N535535 N516763 12
C_C246         0 N536551  220n  TC=0,0 
C_C245         N536621 0  100n  TC=0,0 
X_D40         N535901 N535893 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.9 VJ_SPEC=1 IF_SPEC=5
V_V66         N535847 0 5
X_D42         N536637 N536629 power_diode_p PARAMS: I_REV_LEAK=0.5m
+  CT_ZERO_VOLTS=380p V_BR=200 VJ_KNEE=0.9 VJ_SPEC=1 IF_SPEC=5
X_M140         N516763 N536947 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
X_M139         N516763 N536937 0 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
X_M135         N495050 N536095 N516763 power_nmos_p PARAMS: BVDSS=100 IDSS=0.1u
+  VGS_TH=2.7 RDSON=2m GFS=250 CISS=10000p COSS=2010p CRSS=69p RG=1.9 VSD=1
+  QG=156n V_QG=10 TRR=86n
R_R179         N536095 N535907  2.2 TC=0,0 
R_R176         N5354650 N535529  2.2 TC=0,0 
R_R181         N5360391 N535907  2.2 TC=0,0 
C_C241         N516763 N535535  4.7u  TC=0,0 
R_R183         N516763 N535907  10k TC=0,0 
R_R178         N535893 N535907  2 TC=0,0 
C_C242         N516763 N536095  3.3n  TC=0,0 
C_C250         0 N536937  3.3n  TC=0,0 
C_C251         N410807 N532254  3.3n  TC=0,0 
C_C252         0 N533096  3.3n  TC=0,0 
C_C253         N440199 N440701  3.3n  TC=0,0 
C_C254         0 N441423  3.3n  TC=0,0 
X_V70         N537577 0 VPULSEN PARAMS: V1=0 V2=3.3 TD=0 TR=100n TF=100n PW=36u
+  PER=108u NVAL=0.1
X_V71         N536859 0 VPULSEN PARAMS: V1=0 V2=3.3 TD=36u TR=100n TF=100n
+  PW=36u PER=108u NVAL=0.1
C_C255         0 N535847  1u  TC=0,0 
X_M142         N516763 N410807 N440199 M_UN0001 M_UN0002 BLDCMTR_WYE 
+ PARAMS: J=0.30_g*cm*sec*sec B=0.36_g*cm*sec/rad F=0.72_g*cm D=2.9_g*cm A=2
+  Cl=3mH Cr=6ohm Cc=0.001uF Cm=0.5 Cb=0.12_Volt*sec/rev Ct=300_g*cm/amp
X_U7         N71839 N04965 N02924 0 0 N03004 N00517 N00875 N00835 N01635 N02425
+  0 UCC21550-Q1
X_U8         N537577 N536859 N535847 0 0 N536621 N535535 N535893 N516763
+  N536551 N536629 0 UCC21550-Q1
X_U9         N437401 N533018 N532006 0 0 N532780 N531694 N532052 N410807
+  N532710 N532788 0 UCC21550-Q1
X_U10         N409336 N409986 N440503 0 0 N441091 N440143 N440459 N440199
+  N441069 N441143 0 UCC21550-Q1
C_C256         0 N495050  330u  TC=0,0 
X_D43         N531688 N531694 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
X_D44         N535529 N535535 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
X_D45         N440137 N440143 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
