* source DENEME1
R_R1         N21902 N00454  100 TC=0,0 
C_C1         0 N00232  1u  TC=0,0 
C_C2         0 N00232  0.1u  TC=0,0 
R_R2         0 N00454  10k TC=0,0 
C_C3         0 N00454  33p  TC=0,0 
R_R3         0 N00669  100k TC=0,0 
C_C4         0 N00669  2.2n  TC=0,0 
R_R4         N13389 N00942  100 TC=0,0 
C_C5         0 N00942  33p  TC=0,0 
R_R5         0 N00942  10k TC=0,0 
C_C7         0 N01292  100n  TC=0,0 
R_R7         N02023 N02224  5 TC=0,0 
R_R10         N01541 N02294  5 TC=0,0 
X_X1         N01262 N02294 0 CSD19531Q5A
X_X2         N24537 N02224 N01262 CSD19531Q5A
V_V5         N00232 0 5Vdc
V_V7         N01292 0 12Vdc
C_C9         N01262 N01226  100n  TC=0,0 
R_R12         0 N02294  10k TC=0,0 
X_U1         0 N00669 0 N00454 N00942 N02023 N01541 N00232 N00232 N01226 N01292
+  N01262 0 0 0 0 UCC21520_TRANS
V_V9         N21902 0  
+PULSE 0 3.3 15u 15n 15n 5u 30u
V_V10         N24537 0 48Vdc
V_V11         N13389 0  
+PULSE 0 3.3 0 15n 15n 5u 30u
R_R13         N01262 N02224  10k TC=0,0 
V_V12         N01226 N01262 12Vdc
C_C10         N01262 N01226  1u  TC=0,0 
C_C11         0 N01292  10u  TC=0,0 
C_C12         N01262 N02224  1000p  TC=0,0 
C_C13         0 N02294  1000p  TC=0,0 
